US08735387B2
(c) (2-{4-[5-(4-Chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetylamino)-acetic acid
50 mg of (2-{4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetylamino)-acetic acid tert-butyl ester were dissolved in 1 ml of trifluoroacetic acid and the mixture was stirred for 30 min. Then the solvent was removed in vacuo to yield 37 mg of the title compound.

reactant | (2-{4-[5-(4-chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetylamino)-acetic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(CNC(COC1=C(C=C(C=C1C)C=1OC=2N=C(N=C(C2N1)OCCC)CC1=CC=C(C=C1)Cl)C)=O)=O | C31H35ClN4O6
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2-{4-[5-(4-Chloro-benzyl)-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl]-2,6-dimethyl-phenoxy}-acetylamino)-acetic acid | 37 mg | ClC1=CC=C(CC=2N=C(C3=C(N2)OC(=N3)C3=CC(=C(OCC(=O)NCC(=O)O)C(=C3)C)C)OCCC)C=C1 | C27H27ClN4O6
